US07943645B2
Description 95 (RS)-1-Benzyl-2-[3-(4-fluoro-phenyl)-pyrazol-1-ylmethyl]-piperidine
The title compound (0.8 g) was prepared from 2-bromomethyl-N-benzylpiperidine (2.68 g) and 3-(4-fluoro-phenyl)-1H-pyrazole (1.62 g) according to the method of example 93.

reactant | 2-bromomethyl-N-benzylpiperidine | 2.68 g | BrCC1N(CCCC1)CC1=CC=CC=C1 | C13H18BrN
reactant | 3-(4-fluoro-phenyl)-1H-pyrazole | 1.62 g | FC1=CC=C(C=C1)C1=NNC=C1 | C9H7FN2
product | (RS)-1-Benzyl-2-[3-(4-fluoro-phenyl)-pyrazol-1-ylmethyl]-piperidine | 0.8 g | C(C1=CC=CC=C1)N1C(CCCC1)CN1N=C(C=C1)C1=CC=C(C=C1)F | C22H24FN3
